US07655322B2
To a 1 L round bottom flask equipped with a stirbar was added 26.8 g benzimidazole (227 mmol) and 12.7 g (227 mmol) finely pulverized potassium hydroxide. These were stirred in 500 mL acetone for 20 minutes at reflux. 20.0 g (78.5 mmol) α,α′-dibromo-m-xylene was then added, and the solution was stirred at reflux for 6 hours followed by room temperature stirring for 72 hours. The cloudy solution was filtered, and the white solids rinsed with acetone. The resulting filtrate was dried on silica and partitioned on a silica gel column using a gradient of 100% acetonitrile→90% acetronitrile/10% MeOH as eluent. The product fractions were evaporated of solvent to give 5 g 1-[3-(1H-benzimidazole-1yl-methyl)benzyl]-1H-benzimidazole as a white solid.

reactant | benzimidazole | 227 mmol, 26.8 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | α,α′-dibromo-m-xylene | 78.5 mmol, 20.0 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 1-[3-(1H-benzimidazole-1yl-methyl)benzyl]-1H-benzimidazole | 5 g | N1(C=NC2=C1C=CC=C2)CC=2C=C(CN1C=NC3=C1C=CC=C3)C=CC2 | C22H18N4
